US06573293B2
Dimethylformamide (322 g) and dichloromethane (3700 mL) were cooled in an ice bath to 4° C. and phosphorus oxychloride (684 g) was added with stirring. Solid 2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester (670 g) was slowly added in aliquots over 15 minutes. The maximum temperature reached was 18° C. The mixture was heated to reflux for one hour, cooled to 10° C. in an ice bath and 1.6 L of ice water was rapidly added with vigorous stirring. The temperature increased to 15° C. 10 N Hydrochloric acid (1.6 L) was added with vigorous stirring. The temperature increased to 22° C. The mixture was allowed to stand for 30 minutes and the layers allowed to separate. The temperature reached a maximum of 40° C. The aqueous layer was adjusted to pH 12-13 with 10 N potassium hydroxide (3.8 L) at a rate that allowed the temperature to reach and remain at 55° C. during the addition. After the addition was complete the mixture was cooled to 10° C. and stirred for 1 hour. The solid was collected by vacuum filtration and washed four times with water to give 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester (778 g, 100% yield) as a yellow solid. 1H-NMR (DMSO-d6) δ 1.25 (t, 3H, CH3), 2.44, 2.48 (2×s, 2×3H, 2×CH3), 4.16 (q, 2H, CH2), 9.59 (s, 1H, CHO), 12.15 (br s, 1H, NH). MS m/z 195 [M+1].

reactant | Dimethylformamide | 322 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 684 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester | 670 g | C(C)OC(=O)C1=C(NC=C1C)C | C9H13NO2
reactant | Hydrochloric acid | 10 N, 1.6 L | Cl | ClH
solvent | dichloromethane | 3700 mL | ClCCl | CH2Cl2
product | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester | 778 g, 100% yield | C(C)OC(=O)C1=C(NC(=C1C)C=O)C | C10H13NO3
